US07196090B2
4-(Benzylamino)-3,5-difluoro-2,6-dimethoxybenzoic acid (9.1 g, 28.1 mmol) was treated with chlorobenzene (45 mL) and the solution heated to reflux under nitrogen where it was maintained for 16 hours. The solution was cooled to room temperature and extracted with saturated, aqueous sodium bicarbonate solution (2×5 mL) followed by water. The organic layer was concentrated under reduced pressure to an oil that crystallized on standing. This was recrystallized from heptane (10 mL) and toluene (5 mL), the mixture cooled to −10° C., filtered and the crystals washed with heptane (10 mL) and vacuum dried at 35° C. to give N-benzyl-2,6-difluoro-3,5-dimethoxyaniline (7.4 g, 26.5 mmol). mp: 65° C.–66° C.

reactant | 4-(Benzylamino)-3,5-difluoro-2,6-dimethoxybenzoic acid | 28.1 mmol, 9.1 g | C(C1=CC=CC=C1)NC1=C(C(=C(C(=O)O)C(=C1F)OC)OC)F | C16H15F2NO4
solvent | chlorobenzene | 45 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N-benzyl-2,6-difluoro-3,5-dimethoxyaniline | 26.5 mmol, 7.4 g | C(C1=CC=CC=C1)NC1=C(C(=CC(=C1F)OC)OC)F | C15H15F2NO2
